US04920116
2-Bromo-1-(3,4,5-trimethoxyphenyl)ethanone
In a manner similar to Preparation 30 react 1-(3,4,5-trimethoxyphenyl)ethanone with bromine to obtain the title compound.

reactant | 1-(3,4,5-trimethoxyphenyl)ethanone | COC=1C=C(C=C(C1OC)OC)C(C)=O | C11H14O4
reactant | bromine | BrBr | Br2
product | 2-Bromo-1-(3,4,5-trimethoxyphenyl)ethanone | BrCC(=O)C1=CC(=C(C(=C1)OC)OC)OC | C11H13BrO4
